US09303007B2
(1R,3S,5R)-5-Methyl-3-(4-(4-(6-(2-((1R,3S,5R)-5-methyl-2-azabicyclo[3.1.0]hex-3-yl)-1H-imidazol-4-yl)-2-naphthyl)phenyl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane
A solution of 4N HCl in dioxane (5 mL) was added to tert-butyl (1R,3S,5R)-3-(4-(4-(6-(2-((1R,3S,5R)-2-(tert-butoxycarbonyl)-5-methyl-2-azabicyclo[3.1.0]hex-3-yl)-1H-imidazol-4-yl)-2-naphthyl)phenyl)-1H-imidazol-2-yl)-5-methyl-2-azabicyclo[3.1.0]hexane-2-carboxylate (48 mg. 0.066 mmol) in MeOH (1 mL) and stirred at ambient conditions for 2 hours, concentrated, and dried under vacuum. Tetra HCl salt (assume theoretical: 44 mg). LC-MS retention time 2.82 min; calcd. for C34H35N6: 527.29 m/z Found 527.26 [M+H]+. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a PHENOMENEX® 2.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 0.8 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 4 min, a hold time of 1 min and an analysis time of 5 min where Solvent A was 5% methanol/95% water/0.1% TFA and Solvent B was 95% methanol/5% water/0.1% TFA. MS data was determined using a MICROMASS® Platform for LC in electrospray mode.

reactant | HCl | 4N | Cl | ClH
reactant | tert-butyl (1R,3S,5R)-3-(4-(4-(6-(2-((1R,3S,5R)-2-(tert-butoxycarbonyl)-5-methyl-2-azabicyclo[3.1.0]hex-3-yl)-1H-imidazol-4-yl)-2-naphthyl)phenyl)-1H-imidazol-2-yl)-5-methyl-2-azabicyclo[3.1.0]hexane-2-carboxylate | 0.066 mmol, 48 mg | C(C)(C)(C)OC(=O)N1[C@@H]2C[C@@]2(C[C@H]1C=1NC=C(N1)C=1C=C2C=CC(=CC2=CC1)C1=CC=C(C=C1)C=1N=C(NC1)[C@H]1N([C@@H]2C[C@@]2(C1)C)C(=O)OC(C)(C)C)C | C44H50N6O4
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | 1 mL | CO | CH4O
product | (1R,3S,5R)-5-Methyl-3-(4-(4-(6-(2-((1R,3S,5R)-5-methyl-2-azabicyclo[3.1.0]hex-3-yl)-1H-imidazol-4-yl)-2-naphthyl)phenyl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane | C[C@]12C[C@H](N[C@@H]2C1)C=1NC=C(N1)C1=CC=C(C=C1)C1=CC2=CC=C(C=C2C=C1)C=1N=C(NC1)[C@H]1N[C@@H]2C[C@@]2(C1)C | C34H34N6
